US05364871
Acetic anhydride was added dropwise to a solution of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.44 g) in pyridine (4.4 ml). After being stirred for two hours at ambient temperature, the mixture was mixed with aqueous potassium carbonate and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo to give 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole. The residue was converted to the hydrochloride in a usual manner and the salt was recrystallized from a mixture of methanol and diisopropyl ether to give 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (0.43 g).

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.44 g | NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C10H12N6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 4.4 ml | N1=CC=CC=C1 | C5H5N
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C12H14N6OS
